US07741327B2
In a flask was placed 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5-dimethyl-hexanoic acid methyl ester (34 mg, 0.093 mmol) in tetrahydrofuran (2 mL). To this mixture at 25° C. was added a solution of lithium hydroxide monohydrate (8 mg, 0.19 mmol) in water (2 mL). The mixture was then stirred for 1.5 h at 25° C. and then treated with a 1N aqueous hydrochloric acid solution to pH=2 and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5-dimethyl-hexanoic acid (32 mg, 98% as a light yellow solid.

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5-dimethyl-hexanoic acid methyl ester | 0.093 mmol, 34 mg | COC(C(CCC(C)(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C19H24ClNO4
reactant | lithium hydroxide monohydrate | 0.19 mmol, 8 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5-dimethyl-hexanoic acid | ClC1=C(OC2=CC(N(C2)C(C(=O)O)CCC(C)(C)C)=O)C=CC=C1 | C18H22ClNO4
